US04038396
Step D: Preparation of 3-nitro-5-trifluoromethyl-2-pyridone
To 0.95 l. of stirred fuming nitric acid was added 29 g. of 5-trifluoromethyl-2-pyridone over 1 hour, and stirring was continued for 75 hours. The fuming nitric acid was evaporated and the residue was triturated with acetone. The acetone was evaporated to about 60 ml. and the precipitate was collected on a filter and washed with a 5:1 mixture of methylene chloride:acetone and dried and used directly in the next step.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 5-trifluoromethyl-2-pyridone | FC(C=1C=CC(NC1)=O)(F)F | C6H4F3NO
product | 3-nitro-5-trifluoromethyl-2-pyridone | [N+](=O)([O-])C=1C(NC=C(C1)C(F)(F)F)=O | C6H3F3N2O3
